US05616610
Methyl (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate
(R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran (0.82 g, 1.94 mmol) was dissolved in a solution of DMF/methanol (6:2, 15 mL) and then degassed followed by the inlet of carbonmonoxide (×3). With a slight positive pressure of carbonmonoxide, palladium(II)-acetate (14 mg), 1,3-bis(diphenylphosphino)propane (25 mg) and triethylamine (0.60 mL, 4.3 mmol) were added and the reaction mixture was degassed and subjected to carbonmonoxide once again. The reaction was heated to 70° C. under carbornmonoxide atmosphere with vigorous stirring for 5.5 h. The reaction was allowed to cool and the solvent was removed in vacuo. The remains were taken into a 2M solution of NH3 and then extracted, twice, with diethyl ether. The combined ether portions were dried (MgSO4), filtered, and the solvent removed in vacuo to give the crude residue. Chromatography on silica (eluent: 12.5% ethyl acetate/hexane) gave 501 mg (78% yield) of the title compound as a clear oil. [α]21D =-138.2° (C=0.1; CHCl3) GC-MS (70 eV) M=333 (4%).

reactant | (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 1.94 mmol, 0.82 g | C1(CCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C18H21F4NO4S
reactant | carbonmonoxide | [C]=O | CO
reactant | triethylamine | 4.3 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | DMF methanol | 15 mL | CN(C)C=O.CO
catalyst | palladium(II)-acetate | 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 25 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | Methyl (R)-3-(N,N-Dicyclobutylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate | 501 mg, 78% yield | C1(CCC1)N(C1CCC1)[C@H]1COC=2C(C1)=C(C=CC2F)C(=O)OC | C19H24FNO3
